US07067515B2
C10 (3.5 g, 15.8 mmol) is added to a suspension of triphenylphosphine (166 mg, 0.63 mmol) and palladium acetate (71 mg, 0.32 mmol) in 25 mL DMF in dry flask under N2. Propioaldehyde diethyl acetal (2.3 mL, 15.8 mmol), cuprous iodide (120 mg, 0.63 mmol), and piperidine (1.6 mL, 16 mmol), are added successively, and the reaction is stirred 6 h at rt. The mixture is diluted with 125 mL EtOAc, is extracted with 4×50 mL 50% saturated 1:1 NaCl/NaHCO3, and the organic layer is dried over anhydrous Na2SO4 and then filtered. The dried organic layer is concentrated in vacuo to a dark oil. The crude material is chromatographed over 40 g silica gel (Biotage), eluting with 50% EtOAc/hexane. The fractions with the desired compound are combined and concentrated to afford 2-(diethoxymethyl)furo[3,2-c]pyridine (C11) (64% yield). HRMS (FAB) calculated for C12H15NO3+H: 222.1130, found 222.1123 (M+H)+.

reactant | triphenylphosphine | 0.63 mmol, 166 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Propioaldehyde diethyl acetal | 15.8 mmol, 2.3 mL | C(C)OC(CC)OCC | C7H16O2
reactant | piperidine | 16 mmol, 1.6 mL | N1CCCCC1 | C5H11N
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 125 mL | CCOC(=O)C | C4H8O2
catalyst | palladium acetate | 0.32 mmol, 71 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(diethoxymethyl)furo[3,2-c]pyridine | 64% yield | C(C)OC(C1=CC=2C=NC=CC2O1)OCC | C12H15NO3
